US05104888
5-[4-(6-Hydroxy-5,7,8-trimethyl-2-octylchroman-2-yl-methoxy)benzyl]thiazolidine-2,4-dione
A mixture of 2.1 g of ethyl 3-[4-(6-acetoxy-5,7,8-trimethyl-2-octylchroman-2-ylmethoxy)phenyl]-2-chloropropionate (prepared as described in Preparation 18). 0.35 g of thiourea and 2.5 ml of sulfolane was heated for 7 hours at 120°-130° C. under a nitrogen atmosphere. A mixture of 3.6 ml of 2N aqueous hydrochloric acid and 5 ml of ethylene glycol monomethyl ether was then added to the reaction mixture, after which it was heated for a further 5 hours at 85°-90° C. The reaction mixture was then poured into water and extracted with benzene. The benzene extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography, using a 10:1 by volume mixture of benzene and ethyl acetate as eluent, to give the title compound as a slightly yellow, foamy solid.

reactant | ethyl 3-[4-(6-acetoxy-5,7,8-trimethyl-2-octylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 2.1 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C34H47ClO6
reactant | thiourea | 0.35 g | NC(=S)N | CH4N2S
reactant | sulfolane | 2.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2N, 3.6 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethylene glycol monomethyl ether | 5 ml | COCCO | C3H8O2
product | 5-[4-(6-Hydroxy-5,7,8-trimethyl-2-octylchroman-2-yl-methoxy)benzyl]thiazolidine-2,4-dione | OC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C31H41NO5S
